US08445501B2
trans-4-(5-Cyclobutylmethoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid [4-(2-methoxy-ethylcarbamoyl)-cyclohexyl]-amide
Starting 4-(5-cyclobutylmethoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (example A68) and trans-4-amino-cyclohexanecarboxylic acid (2-methoxy-ethyl)-amide hydrochloride (A196) the title compound is obtained as colorless solid.

reactant | 4-(5-cyclobutylmethoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid | C1(CCC1)COC1=C(C2=C(OCO2)C=C1)C=1C2=C(N=CN1)C(=CN2)C(=O)O | C19H17N3O5
reactant | trans-4-amino-cyclohexanecarboxylic acid (2-methoxy-ethyl)-amide hydrochloride | Cl.COCCNC(=O)[C@@H]1CC[C@H](CC1)N
product | trans-4-(5-Cyclobutylmethoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid [4-(2-methoxy-ethylcarbamoyl)-cyclohexyl]-amide | COCCNC(=O)[C@@H]1CC[C@H](CC1)NC(=O)C1=CNC2=C1N=CN=C2C2=C(C=CC=1OCOC12)OCC1CCC1 | C29H35N5O6
